US05606071
4.0 g (40 mmol) of hydantoin, 30 ml of acetic acid and 2.0 ml (40 mmol) of bromine were mixed at room temperature. The reaction mixture was then vigorously stirred at a temperature of 60° C. for 2 hours. After cooling the reaction mixture to room temperature, 8.64 g (80 mmol) of anisol was added to the reaction mixture and the reaction was further conducted at a temperature of 100° C. for 6 hours. The resulting precipitate was recovered by filtration, washed with water, and then dried to obtain 3.96 g (yield 48%) of 5-(p-methoxyphenyl)hydantoin.

reactant | hydantoin | 40 mmol, 4.0 g | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | bromine | 40 mmol, 2.0 ml | BrBr | Br2
reactant | anisol | 80 mmol, 8.64 g | C1(=CC=CC=C1)OC | C7H8O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 5-(p-methoxyphenyl)hydantoin | 3.96 g, yield 48% | COC1=CC=C(C=C1)C1C(NC(N1)=O)=O | C10H10N2O3
